US08957080B2
Into a solution of 1-tert-butyl 2-methyl (2S)-4,4-difluoropyrrolidine-1,2-dicarboxylate (900 mg, 3.39 mmol, 1.00 equiv) in tetrahydrofuran (15 mL) was added LiBH4 (200 mg, 9.1 mmol, 2.7 equiv) in batches at 0° C. The resulting solution was stirred overnight at room temperature, then was diluted with EA and washed with water and brine, dried over anhydrous sodium sulfate and concentrated to give 0.8 g of tert-butyl (2S)-4,4-difluoro-2-(hydroxymethyl)pyrrolidine-1-carboxylate as reddish oil.

reactant | 1-tert-butyl 2-methyl (2S)-4,4-difluoropyrrolidine-1,2-dicarboxylate | 3.39 mmol, 900 mg, 1.00 equiv | FC1(C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC)F | C11H17F2NO4
reactant | LiBH4 | 9.1 mmol, 200 mg, 2.7 equiv | [Li+].[BH4-]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | tert-butyl (2S)-4,4-difluoro-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 0.8 g | FC1(C[C@H](N(C1)C(=O)OC(C)(C)C)CO)F | C10H17F2NO3
